US07612067B2
B. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-furan-3-yl)-imidazo[1,2-b]pyridazine.
A THF solution (10 mL) of 3-bromo-2-methyl furan (prepared as described above) (1.06 gm, 6.58 mmol) is cooled to −78° C. under N2 then treated with nBuLi (1.6 M in hexane, 4.1 mL, 6.6 mmol). After 10 minutes at −78° C., the mixture is treated with ZnCl2 (Aldrich, 0.5 M in THF, 13.2 mL, 6.6 mmol). The resulting mixture is warmed to room temperature then treated with 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.13 gm, 3.29 mmol) and PdCl2(dppf)-CH2Cl2 complex (Aldrich, 257 mg, 0.31 mmol). The mixture is heated to 60° C. for 4 hours, then poured into sat. NH4Cl (50 mL) and extracted with diethyl ether (2×50 mL). The combined organic extracts are washed with sat. NaCl, dried over Na2SO4, filtered, and concentrated. The crude product is purified by chromatography using hexane-ethyl acetate gradient (100% hexane to 20% ethyl acetate in hexane) to elute the title product (685 mg, 70% yield) as an oil. ES-MS (m/z): calc'd for C18H23N3O: 297.2. found 298.2 (M+H); 1H NMR (400 mHz, CDCl3): δ 7.45 (d, J=2.0 Hz, 1H), 6.63 (s, 1H), 6.60 (d, J=2.0 Hz, 1H), 3.35-3.31 (m, 1H), 2.51 (s, 3H), 2.44 (s, 3H), 2.30 (s, 3H), 1.88-1.75 (m, 4H), 0.86 (t, J=7.5 Hz, 6H).

reactant | 3-bromo-2-methyl furan | 6.58 mmol, 1.06 gm | BrC1=C(OC=C1)C | C5H5BrO
reactant | nBuLi | 6.6 mmol, 1.6 M, 4.1 mL | [Li]CCCC
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 3.29 mmol, 1.13 gm | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
catalyst | ZnCl2 | 6.6 mmol, 0.5 M, 13.2 mL | [Cl-].[Cl-].[Zn+2]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-furan-3-yl)-imidazo[1,2-b]pyridazine | 685 mg, 70% yield | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(OC=C2)C | C18H23N3O
